US05998613
4,4-Di-(2-tolyl)-1-butylamine, 30b.
Prepared via the 4,4-di-(2-tolyl)-1-butyliodide, 33a and isolated as an oil. 1H NMR (CDCl3) δ1.20 (s broad, 2H), 1.42-1.58 (m,2H), 1.87-2.03 (m,2H), 2.27 (s,6H), 2.70 (t,2H), 4.23 (t,1H), 7.05-7.16 (m,8H) 4,4-Di-(2-tolyl)-3-butenylamine, 30c. Prepared via the 4,4-di-(2-tolyl)-3-butenylodide 36a and isolated as an oil. 1H NMR (CDCl3) δ1.20 (s broad, 2H), 2.11 (s,3H), 2.18 (q,2H), 2.26 (s,3H), 2.77 (t,2H), 5.75 (t,1H), 7.02-7.18 (m,8H).

reactant | 4,4-di-(2-tolyl)-1-butyliodide | C1(=C(C=CC=C1)C(CCCI)C1=C(C=CC=C1)C)C | C18H21I
reactant | 4,4-Di-(2-tolyl)-3-butenylamine | C1(=C(C=CC=C1)C(=CCCN)C1=C(C=CC=C1)C)C | C18H21N
product | 4,4-Di-(2-tolyl)-1-butylamine | C1(=C(C=CC=C1)C(CCCN)C1=C(C=CC=C1)C)C | C18H23N
